US07235572B2
In analogy to the procedure described in example 2 c], {6-[2-(4-methyl-2-phenyl-thiazol-5-yl)-ethoxy]-indol-1-yl}-acetic acid tert-butyl ester was treated with LiOH to obtain {6-[2-(4-methyl-2-phenyl-thiazol-5-yl)-ethoxy]-indol-1-yl}-acetic acid as off-white solid.

reactant | {6-[2-(4-methyl-2-phenyl-thiazol-5-yl)-ethoxy]-indol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OCCC1=C(N=C(S1)C1=CC=CC=C1)C)=O | C26H28N2O3S
reactant | LiOH | [Li+].[OH-]
product | {6-[2-(4-methyl-2-phenyl-thiazol-5-yl)-ethoxy]-indol-1-yl}-acetic acid | CC=1N=C(SC1CCOC1=CC=C2C=CN(C2=C1)CC(=O)O)C1=CC=CC=C1 | C22H20N2O3S
